US07629482B2
Methylene chloride (180 ml) is added to [R-(Z)]-[4-hydroxy-α-[(3-methoxy-1-methyl-3-oxo-1-propenyl)amino]]benzeneacetic acid, mono potassium salt (43.5 gm), cooled to −20° C. and dimethylformamide (160 ml) is added at −20° C. Then methanesulfonic acid (0.4 ml) and N-methylmorpholine (0.44 ml) are added. The contents are cooled to −50° C. to −60° C., ethyl chloroformate (14 ml) is added and stirred for 1 hour 30 minutes. N,O-bis(trimethylsilyl)acetamide (39 ml) is added to the reaction mass, stirred for 30 minutes and [7-trimethylsilylamino-3-(Z/E-propen-1-yl)-3-cephem-4-carboxylic acid]trimethylsilyl ester obtained in step-I is added to this solution. The contents are stirred for 3 hours, 2N hydrochloric acid (120 ml) is added and the layers are separated. Then the mixture of dimethylformamide (300 ml) and acetone (75 ml) is added to the reaction mass, carbon (3 gm) is added and stirred for 30 minutes. Filtered the reaction mass, washed with 150 ml of dimethylformamide and the pH is adjusted to 6-6.5 with NH3 solution. Then the precipitated solid is filtered, washed with dimethylformamide and acetone and dried under vacuum at 40° C. to give 58 gm of cefprozil dimethylformamide solvate (1.5 mole dimethylformamide per mole of cefprozil.

reactant | dimethylformamide | 1.5 mole | CN(C=O)C | C3H7NO
reactant | cefprozil | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C18H19N3O5S
solvent | hydrochloric acid | 2N, 120 ml | Cl | ClH
product | cefprozil dimethylformamide | 58 gm | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN(C=O)C | InChI=1S/C18H19N3O5S.C3H7NO/c1-2-3-10-8-27-17-13(16(24)21(17)14(10)18(25)26)20-15(23)12(19)9-4-6-11(22)7-5-9;1-4(2)3-5/h2-7,12-13,17,22H,8,19H2,1H3,(H,20,23)(H,25,26);3H,1-2H3/b3-2+;/t12-,13-,17-;/m1./s1
